US05600044
Polymerization of N,N-diethylacrylamide (DEAM)
N-n-propylacrylamide (NnPAM) and vinylpyrrolidone were purchased from a commercial vendor and used as received. Anhydrous methanol was degassed by vigorously bubbling dry nitrogen through it.

reactant | N-n-propylacrylamide | C(CC)NC(C=C)=O | C6H11NO
reactant | vinylpyrrolidone | C(=C)N1C(CCC1)=O | C6H9NO
product | N,N-diethylacrylamide | C(C)N(C(C=C)=O)CC | C7H13NO
